US06657085B2
10.0 g (48 mmol) of 2-nitro-6-acetyl-benzoic acid (cf. Horii et al., Yakugaku Zasshi, 1954, 466, and Baker et al., J. Org. Chem. 1952, 17, 164) are dissolved at 40° C. in 50 ml of 2N sodium hydroxide solution and treated with 1.87 g (48 mmol) of sodium borohydride in portions. After 40 minutes, the reaction mixture, which has been cooled, is acidified and the precipitated crystals are filtered off and dried in vacuo; the product consists of 8.4 g of a product mixture of 82% of 2-nitro-6-(1-hydroxyethyl)-benzoic acid; 1H-NMR (DMSO-D6): 8.00 ppm, m, 2H; 7.68 ppm, t, 1H; 5.6 ppm, b, OH; 4.92 ppm, q, 1H; 1.32 ppm, d, 3H; and 18% of 3-methyl-7-nitro-3H-isobenzofuran-1-one; 1H-NMR (DMSO-D6): 8.02 ppm, m, 2H; 7.68 ppm, t, 1H; 5.80 ppm, q, 1H; 1.62 ppm, d, 3H. The acid aqueous phase is then also extracted with ethyl acetate, combined with the crystals obtained above, dried thoroughly over magnesium sulfate and concentrated completely to dryness by evaporation. 9.14 g (98.6%) of pure 3-methyl-7-nitro-phthalide (3-methyl-7-nitro-3H-isobenzofuran-1-one) are thereby obtained; 1H-NMR (CDCl3): 7.92 ppm, d, 1H; 7.88 ppm, t, 1H; 7.72 ppm, d, 1H; 5.63 ppm, q, 1H; 1.72 ppm, d, 3H.

reactant | 2-nitro-6-acetyl-benzoic acid | 48 mmol, 10.0 g | [N+](=O)([O-])C1=C(C(=O)O)C(=CC=C1)C(C)=O | C9H7NO5
reactant | sodium borohydride | 48 mmol, 1.87 g | [BH4-].[Na+]
solvent | sodium hydroxide | 2N, 50 ml | [OH-].[Na+]
product | 3-methyl-7-nitro-phthalide | 9.14 g, 98.6% | CC1OC(=O)C2=C(C=CC=C12)[N+](=O)[O-] | C9H7NO4
